US08084614B2
To 4-chloro-2-fluoro-3-nitro-benzoic acid (5.0 g, 22.8 mmol) suspended in dry DCM (60 mL), was added DMF (0.5 mL) followed by the slow addition of oxalyl chloride (2.4 mL, 27.3 mmol, 2M in DCM). The mixture was stirred for 2 hrs, then concentrated to yield 4-chloro-2-fluoro-3-nitro-benzoyl chloride as a yellow solid.

reactant | 4-chloro-2-fluoro-3-nitro-benzoic acid | 22.8 mmol, 5.0 g | ClC1=C(C(=C(C(=O)O)C=C1)F)[N+](=O)[O-] | C7H3ClFNO4
reactant | DMF | 0.5 mL | CN(C)C=O | C3H7NO
reactant | oxalyl chloride | 27.3 mmol, 2M, 2.4 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | DCM | 60 mL | C(Cl)Cl | CH2Cl2
product | 4-chloro-2-fluoro-3-nitro-benzoyl chloride | ClC1=C(C(=C(C(=O)Cl)C=C1)F)[N+](=O)[O-] | C7H2Cl2FNO3
